US04847257
To a stirred solution of 3,5-dichlorobenzoyl chloride (712 mg, 3.40 mmole) in THF (6 ml) at 0° C. is added dropwise a solution of sodium borohydride (227 mg, 6.0 mmole), in N-methyl pyrrolidinone (1.5 ml) maintaining the temperature at ≤18° C. The reaction mixture is stirred for 2 hours at ambient temperature and then partitioned with 0.5 N aqueous HCl (60 ml) and EtOAc (60 ml). The layers are separated and the aqueous layer is washed with EtOAc (20 ml). The combined organic layer is washed with H2O (60 ml) and brine (40 ml), dried (Na2SO4), filtered, and concentrated to give crude product as a crystalline solid. One recrystallization from hot cyclohexane (7.5 ml) gives 2, i.e., 3,5-dichlorobenzyl alcohol (451 mg, 2.55 mmole, 75%, m.p. 77°-77.5° C.).

reactant | 3,5-dichlorobenzoyl chloride | 3.40 mmole, 712 mg | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | sodium borohydride | 6.0 mmole, 227 mg | [BH4-].[Na+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | N-methyl pyrrolidinone | 1.5 ml | CN1CCCC1=O | C5H9NO
product | 3,5-dichlorobenzyl alcohol | 2.55 mmole, 451 mg, 75% | ClC=1C=C(CO)C=C(C1)Cl | C7H6Cl2O
